US07417060B2
To a suspension of [2-(4-iodophenoxy)ethyl]amine hydrochloride (7.0 g) in chloroform (70 ml) was added saturated sodium bicarbonate solution (70 ml) and the mixture was warmed to 50° C. and stirred for 15 minutes. The organic layer was separated and dried over magnesium sulfate. Filtration followed by evaporation gave [2-(4-iodophenoxy)ethyl]amine (6.13 g) as a white solid. The compound was used in the next step without further purification.

reactant | [2-(4-iodophenoxy)ethyl]amine hydrochloride | 7.0 g | Cl.IC1=CC=C(OCCN)C=C1
reactant | sodium bicarbonate | 70 ml | C([O-])(O)=O.[Na+]
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | [2-(4-iodophenoxy)ethyl]amine | 6.13 g | IC1=CC=C(OCCN)C=C1 | C8H10INO
